US05043142
To a solution of 271 mg (6.78 mmol) of sodium hydride contained at 60% in mineral oil in dry dimethylformamide (25 ml) was added 1.00 g (4.52 mmol) of 4-bromo-2-chlorobenzyl alcohol in an atmosphere of argon, and the mixture was allowed to react at 40°-50° C. for 30 min. Then, 1.54 g (5.42 mmol) of 4-bromo-2-chlorobenzyl bromide was added, and the mixture was reacted at room temperature for 18 hours. To the reaction mixture at 0° C. was added a saturated aqueous solution of ammonium chloride followed by extraction with ethyl acetate. The organic layer was washed with water and then concentrated under reduced pressure. The residue thus obtained was subjected to silica gel column chromatography for separation and purification. Elution with ethyl acetate-hexane (1:4) yielded 1.69 g (3.97 mmol) of bis(4-bromo-2-chlorobenzyl) ether.

reactant | sodium hydride | 6.78 mmol, 271 mg | [H-].[Na+]
reactant | 4-bromo-2-chlorobenzyl alcohol | 4.52 mmol, 1.00 g | BrC1=CC(=C(CO)C=C1)Cl | C7H6BrClO
reactant | 4-bromo-2-chlorobenzyl bromide | 5.42 mmol, 1.54 g | BrC1=CC(=C(CBr)C=C1)Cl | C7H5Br2Cl
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | bis(4-bromo-2-chlorobenzyl) ether | 3.97 mmol, 1.69 g | BrC1=CC(=C(COCC2=C(C=C(C=C2)Br)Cl)C=C1)Cl | C14H10Br2Cl2O
